US08202858B2
1-(3,3-Dimethyl-butyl)-piperidine-4-carboxylic Acid 2-methyl-4-[methyl-(4-trifluoromethyl-phenyl)-carbamoyl]-benzylamide
PyBroP (188 mg, 0.40 mmol) and 1-(3,3-dimethyl-butyl)-piperidine-4-carboxylic acid (82 mg, 0.38 mmol) were added to a solution of 4-aminomethyl-3,N-dimethyl-N-(4-trifluoromethyl-phenyl)-benzamide from Example E118.3 (100 mg, 0.31 mmol) in dichloromethane (5 ml) and DIEA (0.081 ml, 0.46 mmol). The mixture was stirred at room temperature for 2 days, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by preparative HPLC (eluant; 0.5% 35% ammonia:9.5% methanol:90% dichloromethane) to give a off-white powder identified as the title compound (22 mg, 14%).

reactant | PyBroP | 0.40 mmol, 188 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | 1-(3,3-dimethyl-butyl)-piperidine-4-carboxylic acid | 0.38 mmol, 82 mg | CC(CCN1CCC(CC1)C(=O)O)(C)C | C12H23NO2
reactant | 4-aminomethyl-3,N-dimethyl-N-(4-trifluoromethyl-phenyl)-benzamide | NCC1=C(C=C(C(=O)N(C2=CC=C(C=C2)C(F)(F)F)C)C=C1)C | C17H17F3N2O
reactant | DIEA | 0.46 mmol, 0.081 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(3,3-Dimethyl-butyl)-piperidine-4-carboxylic Acid 2-methyl-4-[methyl-(4-trifluoromethyl-phenyl)-carbamoyl]-benzylamide | 22 mg, 14% | CC1=C(CNC(=O)C2CCN(CC2)CCC(C)(C)C)C=CC(=C1)C(N(C1=CC=C(C=C1)C(F)(F)F)C)=O | C29H38F3N3O2
